US05892116
Tetraoctadecylammonium iodide is prepared according to the following process. 70 mg (0.090 mmol) trioctadecylamine, 0.10 g (0.26 mmol) octadecyl iodide (recrystallized from 95% material, Fluka), and 3 ml CH3CN (HPLC grade, Fisher) are placed into a 10 ml roundbottomed flask. The mixture is refluxed under a dry nitrogen atmosphere with stirring for 5 days. 55 mg (53%) white solid, mp 104°-105° C., is recovered after the solvent is evaporated, and recrystallized twice in ethanol/Et2O. IR(KBr) 2918, 2855 (C-H stretching, vvs), 1471, 1386(C-H bending, w) cm-1. 1HNMR(CDCl3) δ 3.48-3.16(CH2, m, 8H), 1.78-0.81 (heptadecyl groups, m, 148H).

reactant | trioctadecylamine | 0.090 mmol, 70 mg | C(CCCCCCCCCCCCCCCCC)N(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC | C54H111N
reactant | octadecyl iodide | 0.26 mmol, 0.10 g | C(CCCCCCCCCCCCCCCCC)I | C18H37I
solvent | CH3CN | 3 ml | CC#N | C2H3N
product | Tetraoctadecylammonium iodide | [I-].C(CCCCCCCCCCCCCCCCC)[N+](CCCCCCCCCCCCCCCCCC)(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC | InChI=1S/C72H148N.HI/c1-5-9-13-17-21-25-29-33-37-41-45-49-53-57-61-65-69-73(70-66-62-58-54-50-46-42-38-34-30-26-22-18-14-10-6-2,71-67-63-59-55-51-47-43-39-35-31-27-23-19-15-11-7-3)72-68-64-60-56-52-48-44-40-36-32-28-24-20-16-12-8-4;/h5-72H2,1-4H3;1H/q+1;/p-1
